US09023860B2
Benzotriazol-1-ylmethyl-benzyl-methyl-amine
Benzotriazole (6 g, 50 mmol) and N-methylbenzylamine (10.57 ml, 55 mmol) were dissolved in methanol (MeOH) (25 ml) followed by drop wise addition of formaldehyde (4.9 ml, 37% in H2O). The resulting mixture was heated at 50° C. for 15 h and cooled to ambient temperature. It was then diluted with diethyl ether (Et2O) (100 ml), washed with saturated sodium chloride aqueous solution (brine) (2×70 ml) and dried over magnesium sulfate (MgSO4) and concentrated. Upon further drying under reduced pressure, the material solidified to afford the depicted compound (13.2 g, 85%).

reactant | Benzotriazole | 50 mmol, 6 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | N-methylbenzylamine | 55 mmol, 10.57 ml | CNCC1=CC=CC=C1 | C8H11N
reactant | formaldehyde | 4.9 ml | C=O | CH2O
solvent | methanol | 25 ml | CO | CH4O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Benzotriazol-1-ylmethyl-benzyl-methyl-amine | 13.2 g, 85% | N1(N=NC2=C1C=CC=C2)CN(C)CC2=CC=CC=C2 | C15H16N4
